US08013156B2
4-(2-Cyanophenyl)piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide.
1-(2-Cyanophenyl)piperazine (1.0 g, 5.34 mmol) was dissolved in 25 mL of dichloromethane. Then, triethylamine (820 μL, 5.88 mmol) was added, followed by 3,5-bis(trifluoromethyl)phenyl isocyanate (1020 μL, 5.87 mmol). The reaction stirred at room temperature overnight. The reaction mixture was diluted with 50 mL of water and extracted three times with 25 mL portions of ethyl acetate. The combined organic fractions were washed twice with 25 mL of 0.1 M HCl, once with 25 mL of water, and once with 25 mL of saturated sodium bicarbonate. The organic fraction was dried with magnesium sulfate and concentrated under vacuum. The crude product was used without further purification.

reactant | 1-(2-Cyanophenyl)piperazine | 5.34 mmol, 1.0 g | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
reactant | triethylamine | 5.88 mmol, 820 μL | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | 5.87 mmol, 1020 μL | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 4-(2-Cyanophenyl)piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)(F)F | C20H16F6N4O
